US08304557B2
(vii) 3-(1-cyano-1-methylethyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide
To a solution of N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide (1.00 g, 1.72 mmol) in dichloromethane (8.0 mL) was added trifluoroacetic anhydride (6.0 mL), and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated under reduced pressure, 5% aqueous sodium hydrogen carbonate solution (150 mL) was added thereto, and the mixture was extracted with ethyl acetate (150 mL). The organic layer was washed with saturated brine (150 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=70/30→40/60), and triturated with diisopropyl ether and hexane to give the title compound (450 mg, 52%) as a colorless solid.

reactant | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 1.72 mmol, 1.00 g | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(C)(C)C#N)=O)=O | C31H29N5O5S
reactant | trifluoroacetic anhydride | 6.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | 3-(1-cyano-1-methylethyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide | 450 mg, 52% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(C2)C=C(N3)NC(C(F)(F)F)=O)C=CC1 | C26H20F3N5O3
